US08022206B2
2-Cyanomethylbenzoic Acid
A mixture of methyl 2-cyanomethylbenzoate (10.5 g, 60.0 mmol) in aq. NaOH (66 mL, 66 mmol, 1N solution) was heated at 40° C. for 5 h and it became a clear solution. The mixture was cooled to 0° C. and acidified to pH 1 using 6N aq. HCl. The resulting white solid was collected by filtration. 1H NMR (CD3OD): δ=4.27 (s, 2H), 7.46 (td, J=7.8, 1.0 Hz, 1H), 7.54-7.60 (m, 2H), 8.09 (dd, J=7.8, 1.3 Hz, 1H).

reactant | methyl 2-cyanomethylbenzoate | 60.0 mmol, 10.5 g | C(#N)CC1=C(C(=O)OC)C=CC=C1 | C10H9NO2
reactant | NaOH | 66 mmol, 1N, 66 mL | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
product | 2-Cyanomethylbenzoic Acid | C(#N)CC1=C(C(=O)O)C=CC=C1 | C9H7NO2
